US06995268B2
Synthesis of racemic trans-3-Propionyl-4-[2-(diphenylmethoxy)ethyl]-1-[(4-fluorophenyl)methyl]piperidine
To a solution of 61 mg 3-hydroxy-4-[2-(diphenylmethoxy)ethyl]-1-[(4-fluorophenyl)methyl]piperidine (0.15 mmol) and 21 mg triethylamine (0.23 mmol, 1.5 equiv) in 2 mL CH2Cl2 cooled in an ice bath was added dropwise 18 mg propionyl chloride (0.19 mmol, 1.3 equiv) and the reaction was allowed to warm to RT. After 1 hr, the same quantities of triethylamine and propionyl chloride were added. After 1 hr, H2O was added and the organic layer was separated, dried (MgSO4) and evaporated. The remaining residue was chromatographed (SiO2; CH2Cl2/MeOH) to yield the title compound as the free base (53 mg, 77%). 1H NMR (CdCl3 ∂ 1.1 (3H, t, J=8.1 Hz), 1.26-1.95 (7H, m), 2.26 (2H, q, J=7.2 and 7.5 Hz), 2.71 (1H, d, J=11.7 Hz), 3.02 (1H, d, J=10.5 Hz), 3.41-3.52 (4H, m), 4.67 (1H, t, J=9.6 Hz), 5.31 (1H, s), 6.98 (2H, t, J=9.3 Hz), 7.2-7.4 (12H, m). This was then reacted in a mixture of 2 mL 50% EtOH/Et2O with oxalic acid dihydrate (15.4 mg, 1.1 equiv) to furnish the title compound. mp °C. Elemental analysis calculated for C32H36NO7F.0.5H2O: C, 67.43; H, 6.41; N, 2.46. Found: C, 67.34; H, 6.43; N, 2.44.

reactant | 3-hydroxy-4-[2-(diphenylmethoxy)ethyl]-1-[(4-fluorophenyl)methyl]piperidine | 0.15 mmol, 61 mg | OC1CN(CCC1CCOC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=C(C=C1)F | C27H30FNO2
reactant | triethylamine | 0.23 mmol, 21 mg, 1.5 equiv | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 0.19 mmol, 18 mg, 1.3 equiv | C(CC)(=O)Cl | C3H5ClO
reactant | H2O | O | H2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | racemic trans-3-Propionyl-4-[2-(diphenylmethoxy)ethyl]-1-[(4-fluorophenyl)methyl]piperidine | C(CC)(=O)[C@@H]1CN(CC[C@H]1CCOC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=C(C=C1)F | C30H34FNO2
